US07732613B2
F) N-(4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
To a mixture of 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid (45 mg, 0.19 mmol), HOBt (20 mg) and EDCI.HCl (80 mg, 0.31 mmol) in DMF (2.5 mL) was added 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine (56 mg, 0.18 mmol) at rt, and the reaction mixture was stirred over the weekend at rt. It was directly purified by preparative HPLC to afford the product (35 mg, 30%) as a beige-colored TFA salt solid. 1H NMR (CD3OD) δ 12.21 (s, 1H), 8.60 (dd, 2H, J=9.9, 1.6 Hz), 8.01 (d, 1H, J=12.6 Hz), 7.90 (dd, 1H, J=7.6, 1.6 Hz), 7.74 (s, 1H), 7.45-7.37 (m, 5H), 7.24 (t, 2H, J=8.2 Hz), 6.89 (d, 1H, J=6.6 Hz), 6.65 (t, 1H, J=6.6 Hz), 4.03 (s, 3H), 4.00 (s, 3H); MS(ESI+) m/z 530.2 (M+H)+.

reactant | 1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.19 mmol, 45 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1)C(=O)O)=O | C12H8FNO3
reactant | HOBt | 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.31 mmol, 80 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine | 0.18 mmol, 56 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | N-(4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 35 mg, 30% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C=CC1)C1=CC=C(C=C1)F)=O)F | C29H21F2N3O5
